US06653334B1
Synthesis of 3-(1-Ethoxycarbonyl-1-methylethoxy)phenylacetic Acid
Ethyl 2-[3-(allyloxycarbonylmethyl)phenoxy]-2-methylpropionate (6.40 g, 20.9 mmol) was dissolved in tetrahydrofuran (150 mL). Subsequently, triphenylphosphine (2.42 g, 2.09 mmol) and piperidine (41.34 mL, 41.8 mmol) were added thereto. Under argon atmosphere, tetrakis(triphenylphosphine)palladium (2.42 g, 2.09 mmol) was added, the resultant mixture was stirred for three hours at room temperature. After completion of reaction, the reaction mixture was concentrated under reduced pressure, followed by addition of chloroform and washing sequentially with 3M hydrochloric acid, water, and saturated brine. The resultant mixture was subjected to drying over sodium sulfate, concentration under reduced pressure, and purification by silica gel column chromatography (chloroform/methanol/acetic acid=50/1/0.5), whereby the target compound was obtained (6.88 g, 25.84 mmol, >q.).

reactant | Ethyl 2-[3-(allyloxycarbonylmethyl)phenoxy]-2-methylpropionate | 20.9 mmol, 6.40 g | C(C=C)OC(=O)CC=1C=C(OC(C(=O)OCC)(C)C)C=CC1 | C17H22O5
reactant | triphenylphosphine | 2.09 mmol, 2.42 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | piperidine | 41.8 mmol, 41.34 mL | N1CCCCC1 | C5H11N
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 2.09 mmol, 2.42 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(1-Ethoxycarbonyl-1-methylethoxy)phenylacetic Acid | C(C)OC(=O)C(C)(OC=1C=C(C=CC1)CC(=O)O)C | C14H18O5
